US06121455
(2-Chloro-allyl)-dithiocarbamic acid benzyl ester
47 g of 2-chloro-allyl isothiocyanate and 40 g of benzyl mercaptan are dissolved in 150 ml of acetonitrile and 150 ml of toluene. Then 1 g of 1,4-diazabicyclo[2.2.2]octane is added and the mixture is heated to 75° C. and stirred for one hour. After cooling to room temperature, the solvent is removed by evaporation and the residue is crystallised from ether/hexane. In that manner the title product having a melting point of 46-48° C. (compound A) is obtained.

reactant | 2-chloro-allyl isothiocyanate | 47 g | ClC(CN=C=S)=C | C4H4ClNS
reactant | benzyl mercaptan | 40 g | C(C1=CC=CC=C1)S | C7H8S
reactant | 1,4-diazabicyclo[2.2.2]octane | 1 g | N12CCN(CC1)CC2 | C6H12N2
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | (2-Chloro-allyl)-dithiocarbamic acid benzyl ester | C(C1=CC=CC=C1)SC(NCC(=C)Cl)=S | C11H12ClNS2
